Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Colonoscopy with biopsy

 
History of Present Illness:
This is a ___ M PMHx stage IV colon adenocarcinoma s/p low 
resection anterior resection and anastomosis, c/b mets to RLL 
s/p VATS ___ c/b PNA, cirrhosis c/b variceal bleeding s/p 
TIPS ___, critical aortic stenosis (0.8cm2), ___ 
esophagitis, HIV on HAART, HTN, HLD, Anemia, GERD, now 
presenting with abdominal pain, chest pain and shortness of 
breath
Patient reports for 1 week prior to presentation, he has had 
increasing dyspnea on exertion, noted when getting up to walk 
any distance longer than the living room to the bathroom; 
symptoms resolve with "taking deep breaths" and had not been 
associated with palpitations, nausea, presyncope. Patient 
reports he was able to go about his normal life / ADLs, until 
3pm on day of presentation, when when he began to develop upper 
epigastric pain, described as dull, radiating throughout his 
abdomen, not positional or associated with N/V. After two hours 
of this pain, patient reports development of left-sided chest 
pressure, described as sharp, ___ in intensity, and associated 
with dyspnea. Non-exertional, non-pleuritic. No associated 
diaphoresis, SOB. Patient presented to ED for further 
evaluation.
In ED, initial VS were, 98 68 175/53 16 98%RA. Exam notable for 
thin, systolic murmur, clear lungs, soft abdomen. Labs were 
notable for WBC 7.5, Hct 38.0, Plt 245, Cr 1.1, lactate 1.7, 
trop<.01, UA w 182 WBC, few bacteria. EKG showed sinus brady 
unchanged from priors. CTA chest showed no e/o PE or pneumonia, 
multiple pulmonary nodules that had slightly increased in size 
and aneurysmal dilation of the ascending and descending aorta. 
Patient was given a GI cocktail, 500mg PO Ciprofloxacin x1 and 
was admitted to oncology for further evaluation and management. 
Vitals prior to transfer were 98.2 62 146/61 17 96%RA.
On arrival to floor, patient was comfortable and without 
complaint. He reported his symptoms only mildly improved when he 
received the GI cocktail, but resolved at the moment he received 
his IV antibiotics. Of note he had a receive anal wart removed 
and he reports that it has been draining purulence.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___ - GI bleed prompted colonoscopy which showed a sigmoid 
mass, biopsy returned as adenocarcinoma
___ - s/p resection, w T3 lesion N1c, tumor deposits
in the subserosa or non-peritonealize pericolic soft tissues
without regional lymph node metastasis, not a candidate for
adjuvant therapy
___ - CT increase in size of small pulmonary nodules 
bilaterally
___ - RLL wedge resection, pathology showed metastatic 
adenocarcinoma
PAST MEDICAL HISTORY:
- Stage IV colon adenocarcinoma
- Cirrhosis of uncertain etiology c/b ascites, grade III varices 
c/b variceal bleeding s/p banding in ___ hepatitis B and Hep C 
positive
- HIV (CD4 most recent CD4 290 in ___, VL <48 ___ on 
HAART, on dapsone ppx
- Critical Aortic stenosis
- HTN
- Hyperlipidemia
- Anemia
- GERD
- Hemorrhoids
 
Social History:
___
Family History:
Unavailable as patient states he never knew his family well. 
 
Physical Exam:
ADMISSION:
Vitals 98.3 128/52 60 20 96%RA 108lbs
GENERAL: elderly male, cachectic, NAD
HEENT: PERRL, anicteric sclera, MMM, nontender supple neck, no 
LAD, no JVD
CARDIAC: RRR, loud late-peaking systolic murmur, radiating to 
carotid
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
ABDOMEN: nondistended, normoactive BS, mildly tender to deep 
palpation of periumbilical area, neg murphys, no 
rebound/guarding, no CVA tenderness
EXTREMITIES: no cyanosis, clubbing or edema
PULSES: 2+ DP/radial pulses bilaterally
Rectal: small surgical wound draining small amount of purulent 
fluid
NEURO: CN II-XII intact
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
====
DISCHARGE:
Vitals: 98.0/98.5 132/62 98 20 98ra
GENERAL: elderly male, cachectic, looks chronically ill, not in 
any distress, overall he feels very well
HEENT: PERRL, anicteric sclera, MMM
CARDIAC: RRR, loud late-peaking systolic murmur, radiating to 
carotid
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
ABDOMEN: +abdominal bruit, thin, vertical scar inferior to 
umbilicus well healed, normoactive BS, mildly tender to deep 
palpation of periumbilical area, neg murphys, no 
rebound/guarding, no CVA tenderness, palp mass in RUQ
EXTREMITIES: no edema, very thin legs/arms with prominent 
vessels
PULSES: 2+ DP/radial pulses bilaterally
Rectal: not repeated, see admission
NEURO: No asterixis, CN ___ intact, speech coherent, 
appropriate affect, good historian, moves all extremeties well, 
symmetrically
Rectal": left lateral perirectal wound, distally sutured, 
proximally open wound draining small amount of serous fluid
 
Pertinent Results:
ADMISSION:

___ 09:30PM BLOOD WBC-7.5 RBC-3.84* Hgb-11.8* Hct-38.0* 
MCV-99* MCH-30.6 MCHC-31.0 RDW-13.9 Plt ___
___ 09:30PM BLOOD Glucose-100 UreaN-18 Creat-1.1 Na-141 
K-4.4 Cl-107 HCO3-23 AnGap-15

COLONOSCOPY:
Evidence of a previous ___ anastomosis was seen at the 
Rectum. Abnormal mucosa was identified at the site of the 
anastomosis.  Cold forceps biopsies were performed for 
histology. 
Protruding LesionsA submucosal mass was found in the rectum (10 
cm from the entry site). The scope traversed the lesion. Tunnel 
biopsies were performed for histopathology Cold forceps biopsies 
were performed for histology at the rectum. 

MICRO:
 URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S

DISCHARGE:

___ 05:55AM BLOOD WBC-4.0 RBC-3.32* Hgb-10.3* Hct-32.4* 
MCV-98 MCH-30.9 MCHC-31.7 RDW-14.3 Plt ___
___ 05:55AM BLOOD  WBC-4.0 Lymph-27 Abs ___ CD3%-67 
Abs CD3-721 CD4%-13 Abs CD4-136* CD8%-54 Abs CD8-583 
CD4/CD8-0.2*
___ 05:55AM BLOOD Glucose-82 UreaN-15 Creat-1.0 Na-146* 
K-4.1 Cl-117* HCO3-20* AnGap-___ M w stage IV colon adenocarcinoma, critical aortic 
stenosis, HIV on HAART, GERD, p/w epigastric pain

HOSPITAL COURSE:
- Definitive cause of epigastric pain was never found, and this 
subsided during hospital course with symptomatic treatment.  We 
ruled out TIPS pathology, PE, and MI. Pt was found to have Amp 
Sensitive Enterococcus in the urine 
and was written to complete a 7 day course.  He also had a 
Colonoscopy that showed a colonic mass, biopsy taken.  On 
discharge pt's CD4 count was noted to be 136, patient was 
notified by phone, and a fax was sent to the patient's ID Doctor 
(___). 

TRANSITIONAL
- Discuss HAART compliance given CD4 136
- F/U Colon Biopsy
- F/U Oncology
- F/U Hepatology

-----
Active
-----

# Epigastric Pain -  pt has multiple comorbidities including 
cirrhosis s/p TIPS, metastatic colon ca, recent VATS for lung 
met, and critical aortic stenosis. MI ruled out with 2 negative 
troponins, PE ruled out with CTA. No PNA clinically or 
radiologically. SBP possible but no ascites on U/S and no 
history of it. Does have history of SBO ___ s/p lysis of 
adhesions at OSH, but no nausea/vomitting, tolerating diet and 
still passing flatus/stool. Could also be related to GERD given 
improvement w GI cocktail in ED.   Mesenteric ischemia would 
also be possible given high plaque burden seen on CTA, however, 
no bloody diarrhea and abd exam not severe.  Did have evidence 
of Enterococcus UTI and this could have contributed to some of 
his pain. LFTs were normal.  Colonoscopy showed new mass that 
was biopsied
- TRANSITIONAL
--- cont Ampicilli on discharge for 7 day course
--- F/U Colon Biopsy
--- GI to do Cscope today

# HIV - We cont dapsone ppx and Darunavir + LaMIVudine + 
RiTONAvir.  We did not have recent CD4 counts in our system. 
This was checked and returned on day of his discharge, noted to 
be 136. Primary ID Doctor notified by FAX, patient was notified 
by phone.

# Perianal Wound - Pt had resection of a lesion on ___ at 
___, per Op note this was fully sutured now presented 
with opened wound.  ___ Surgery team consulted and recommended 
___ baths TID and after BMs. 

-------
Chronic
-------

# Cirrhosis - Decompensated with variceal bleed s/p 
___. Normal LFTs on this admission. We continued 
lactulose / rifaximin, nadolol.  RUQ done on this admission and 
was unchanged. Endoscopy on ___ showing ___ 
esophagus ulcers.

# Stage IV Colon Ca Metastatic to Lungs - s/p low anterior 
resection by Dr. ___ (___), also s/p VATS with RLL wedge 
resection x 2 (___) confirmed mets from colon. Prognosis is 
___ years and without treatment approximately a year.  Plan is 
for ___ in the next month (Port in place).  
- TRANSITIONAL
--- F/U on Colonoscopy biopsy

# HLD / HTN - we continued pravastatin and losartan

# GERD - we continued pantoprazole

## CODE STATUS: Full
## EMERGENCY CONTACT: ___. Son ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Dapsone 50 mg PO DAILY 
2. Darunavir 800 mg PO DAILY 
3. LaMIVudine 150 mg PO DAILY 
4. Lactulose 30 mL PO TID 
5. Rifaximin 550 mg PO BID 
6. RiTONAvir 100 mg PO DAILY 
7. Pravastatin 10 mg PO DAILY 
8. Losartan Potassium 50 mg PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Nadolol 10 mg PO DAILY 

 
Discharge Medications:
1. Dapsone 50 mg PO DAILY 
2. Darunavir 800 mg PO DAILY 
3. Lactulose 30 mL PO TID 
4. LaMIVudine 150 mg PO DAILY 
5. Losartan Potassium 50 mg PO DAILY 
6. Nadolol 10 mg PO DAILY 
7. Pantoprazole 40 mg PO Q12H 
8. Pravastatin 10 mg PO DAILY 
9. Rifaximin 550 mg PO BID 
10. RiTONAvir 100 mg PO DAILY 
11. Ampicillin 500 mg PO Q6H 
RX *ampicillin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*14 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary:
1. Urinary tract infection
2. Rectal mass
Secondary:
1. Metastatic colon cancer
2. Pulmonary nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with abdominal pain. We have 
an infection in your urine which is being treated with oral 
antibiotics. This may have been the cause of your abdominal 
pain. You already had a colonoscopy scheduled as an outpatient 
so we did it while you were in the hospital and they found a 
mass in your rectum which was biopsied. Dr. ___ Dr. 
___ will follow up the results of this biopsy.

Please note any medication changes and enjoy the ___ and 
summer!
 
Followup Instructions:
___